US05534515
4a. 1-Benzyl-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine
32.65 g (291 mmol) of potassium tert-butoxide and 1.54 g (5.82 mmol) of [18]crown-6 (98% strength) are added successively to a solution of 21.8 g (173 mmol) of 4-fluorobenzyl alcohol in 150 ml of anhydrous N-methylpyrrolidone. This mixture is stirred at room temperature for 1 h. A solution of 15.0 g (58.2 mmol) of 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine in 100 ml of anhydrous N-methylpyrrolidone is subsequently added dropwise in the course of 30 min. The mixture is stirred at room temperature for a further 15 min, then treated with 500 ml of ice-water and extracted with 3×400 ml of ethyl acetate. The organic extracts are washed with 3×300 ml of water and subsequently dried over magnesium sulfate. After concentration and crystallization from diisopropyl ether, 12.95 g (64%) of the title compound are isolated. M.p.: 127°-132° C.

reactant | potassium tert-butoxide | 291 mmol, 32.65 g | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzyl alcohol | 173 mmol, 21.8 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine | 58.2 mmol, 15.0 g | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)Cl)C | C14H12ClN3
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 1-Benzyl-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C | C21H18FN3O
